US07495007B2
To a solution of E/Z 4-Chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-benzoic acid methyl ester (500 mg, 1.4 mmol) in dichloromethane (10 mL) at r.t was added di-tert-butyl-dicarbonate (470 mg, 2.1 mmol), followed by the addition of 4-dimethylaminopyridine (100 mg, 0.82 mmol). The reaction mixture was stirred at r.t. for 2 h, then purified by column chromatography to give E/Z 6-Chloro-3-(5-chloro-2-methoxycarbonyl-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester as a yellow oil (450 mg)

reactant | 4-Chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-benzoic acid methyl ester | 1.4 mmol, 500 mg | COC(C1=C(C=C(C=C1)Cl)C=C1C(NC2=CC(=CC=C12)Cl)=O)=O | C17H11Cl2NO3
reactant | di-tert-butyl-dicarbonate | 2.1 mmol, 470 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.82 mmol, 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-Chloro-3-(5-chloro-2-methoxycarbonyl-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 450 mg | C(C)(C)(C)OC(=O)N1C(C(C2=CC=C(C=C12)Cl)=CC1=C(C=CC(=C1)Cl)C(=O)OC)=O | C22H19Cl2NO5
